US08013008B2
Under an argon atmosphere, to a suspension (303 mL) of ethyl (4S)-4-{[(benzyloxy)carbonyl]amino}-3-{[tert-butyl(dimethyl)silyl]oxy}-5-methylhexanoate (17.7 g), calcium chloride (6.73 g) and sodium borohydride (4.58 g) in dehydrated THF was added with stirring under ice-cooling dehydrated ethanol (152 mL), and the mixture was gradually warmed to room temperature and stirred for 15 hr. The reaction mixture was slowly poured into a mixture of ethyl acetate and ice water (containing 1 mol/L hydrochloric acid, 122 mL) and the mixture was partitioned. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=19/1→1/1) to give benzyl ((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-hydroxy-1-isopropylbutyl)carbamate as colorless oil (yield: 14.9 g).

reactant | ethyl (4S)-4-{[(benzyloxy)carbonyl]amino}-3-{[tert-butyl(dimethyl)silyl]oxy}-5-methylhexanoate | 303 mL, 17.7 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(CC(=O)OCC)O[Si](C)(C)C(C)(C)C)C(C)C | C23H39NO5Si
reactant | calcium chloride | 6.73 g | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 4.58 g | [BH4-].[Na+]
reactant | ethanol | 152 mL | C(C)O | C2H6O
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl ((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-hydroxy-1-isopropylbutyl)carbamate | yield: 14.9 g | [Si](C)(C)(C(C)(C)C)OC([C@H](C(C)C)NC(OCC1=CC=CC=C1)=O)CCO | C21H37NO4Si
